US06596685B2
The dehydration condensation reaction of stearic acid with N-hydroxyethyl ethylene diamine was carried out, and the reaction product was hydrolyzed and distilled to give N-stearoyl-N′-hydroxyethyl ethylene diamine. It was dissolved in ethanol, and 1.1-fold equivalents (based on the amine) of formalin was added dropwise thereto under reflux, then 1.1-fold equivalents (based on the amine) of formic acid was added dropwise thereto, and the mixture was aged for 5 hours. The reaction product was further quaternarized with methyl chloride to give N-stearoylaminoethyl-N-hydroxyethyl-N,N-dimethyl ammonium chloride.

reactant | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | N-hydroxyethyl ethylene diamine | OCCNCCN | C4H12N2O
product | N-stearoyl-N′-hydroxyethyl ethylene diamine | C(CCCCCCCCCCCCCCCCC)(=O)NCCNCCO | C22H46N2O2
